US05344843
4-[2-Oxo-2-(4-phenyl-1-piperazinyl)ethoxy]-alpha-oxobenzeneacetic acid ethyl ester (0.7 g) in methanol (40 mL) was treated with sodium carbonate (0.24 g) in water (6 mL), and the mixture was stirred at room temperature for 1.25 hours. After the methanol was evaporated under reduced pressure, water was added and the solution was acidified with 3N hydrochloric acid, then the aqueous layer was extracted with a dichloromethane-tetrahydrofuran mixture (1:1). The organic layer was dried (MgSO4), evaporated, and the residue was crystallized from acetone to furnish 0.3 g of 4-[2-oxo-2-(4-phenyl-1-piperazinyl)ethoxy]-alpha-oxobenzeneacetic acid, mp 188°-192 ° C.

reactant | 4-[2-Oxo-2-(4-phenyl-1-piperazinyl)ethoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.7 g | C(C)OC(C(C1=CC=C(C=C1)OCC(N1CCN(CC1)C1=CC=CC=C1)=O)=O)=O | C22H24N2O5
reactant | sodium carbonate | 0.24 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | 4-[2-oxo-2-(4-phenyl-1-piperazinyl)ethoxy]-alpha-oxobenzeneacetic acid | 0.3 g | O=C(COC1=CC=C(C=C1)C(C(=O)O)=O)N1CCN(CC1)C1=CC=CC=C1 | C20H20N2O5
